US04885300
1-(1-Chloro-2-hydroxy-3-propanyl)-4-piperonylpiperazine
1-Piperonylpiperazine (11.0 g, 50 mmol) in EtOH (125 mL) was added dropwise to epichlorohydrin (3.9 mL, 50 mmol) in EtOH (25 mL) and NaHCO3 (4.2 g, 50 mmol) over 45 min at 0° C., under nitrogen. After 16 h and removal of the EtOH in vacuo, the crude material was passed through silica gel (vacuum, 5% methanol: methylene chloride) to give pure product (3.85 g, 26.4%) as an amber oil. DCI/MS (M+1) 313. 400 MHz 1H NMR (CDCl3) δ: 7.25 (s, 1H), 6.7-6.8 (m, 2H), 5.9 (s, 2H), 4.6 (m, 1H), 3.9 (m, 1H), 3.5 (m, 2H), 3.4 (s, 2H), 2.4-2.7 (m, 10H).

reactant | 1-Piperonylpiperazine | 50 mmol, 11.0 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
reactant | epichlorohydrin | 50 mmol, 3.9 mL | C(Cl)C1CO1 | C3H5ClO
reactant | NaHCO3 | 50 mmol, 4.2 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 125 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
product | 1-(1-Chloro-2-hydroxy-3-propanyl)-4-piperonylpiperazine | 3.85 g, 26.4% | ClCC(CN1CCN(CC1)CC1=CC=2OCOC2C=C1)O | C15H21ClN2O3
